US05391541
A mixture of 6.9 grams (0.031 mole) of 2,3,5-trichlorophenylacetonitrile and 65 mL of water was stirred, and 65 mL of concentrated sulfuric acid was cautiously added. Upon completion of addition, the reaction mixture was heated to reflux, where it was stirred for about 2 hours. After this time the reaction mixture was cooled in an ice-bath and filtered. The collected solid was washed with water and then dissolved in ethyl acetate. The organic layer was washed with two portions of water and then with one portion of an aqueous solution saturated with sodium chloride. The organic layer was then dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 6.3 grams of 2,3,5-trichlorophenylacetic acid, mp 125°-133° C. The NMR spectrum was consistent with the proposed structure.

reactant | 2,3,5-trichlorophenylacetonitrile | 0.031 mole, 6.9 grams | ClC1=C(C=C(C=C1Cl)Cl)CC#N | C8H4Cl3N
reactant | sulfuric acid | 65 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 65 mL | O | H2O
product | 2,3,5-trichlorophenylacetic acid | 6.3 grams | ClC1=C(C=C(C=C1Cl)Cl)CC(=O)O | C8H5Cl3O2
